US07915250B2
To a mixture of 1-(diphenylmethyl)-3-[(phenylmethyl)amino]azetidine-3-carboxylic acid (0.50 g, 1.34 mmol), N,N-diisopropylethylamine (0.47 mL, 2.68 mmol) in DMF (3 mL) was added 1-benzotriazolyloxytripyrrolidinylphosphonium hexafluorophosphate (1.34 g, 2.68 mol) and the resulting mixture was stirred at room temperature for 10 minutes. To this mixture was added 2-propylamine (0.22 mL, 2.68 mmol) and stirring was continued for 18 h. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with 2% aqueous citric acid, 5% lithium chloride, and brine solutions (50 mL each), dried over sodium sulfate, filtered and concentrated to give an oily residue which was purified by flash chromatography (silica gel, eluting with 15-25% ethyl acetate-hexane) to give 1-(diphenylmethyl)-N-(1-methylethyl)-3-[(phenylmethyl)amino]azetidine-3-carboxamide (0.51 g, 92% yield), MS (EI) for C27H31N3O: 414 (MH+).

reactant | 1-(diphenylmethyl)-3-[(phenylmethyl)amino]azetidine-3-carboxylic acid | 1.34 mmol, 0.50 g | C1(=CC=CC=C1)C(N1CC(C1)(C(=O)O)NCC1=CC=CC=C1)C1=CC=CC=C1 | C24H24N2O2
reactant | N,N-diisopropylethylamine | 2.68 mmol, 0.47 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-propylamine | 2.68 mmol, 0.22 mL | CC(C)N | C3H9N
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(diphenylmethyl)-N-(1-methylethyl)-3-[(phenylmethyl)amino]azetidine-3-carboxamide | 0.51 g, 92% yield | C1(=CC=CC=C1)C(N1CC(C1)(C(=O)NC(C)C)NCC1=CC=CC=C1)C1=CC=CC=C1 | C27H31N3O
